US06939869B2
Preparation Ex. 1 Preparation of indole-2-carbonyl chloride
According to the synthesis scheme shown above, a mixture of indole-2-carboxylic acid (98 mg, 0.61 mmol, purchased from ACROS Co.), 10 ml benzene and thionyl chloride (SOCl2) (224 ml, 3.1 mmol) was placed in a 50 ml round-bottom flask purged with nitrogen gas and refluxed for 2 h while stirring, followed by cooling to room temperature. The mixture was concentrated to dry within a concentrator under a reduced pressure, and after the addition of 10 ml benzene, the mixture was concentrated again. Excess thionyl chloride (SOCl2) was removed from the mixture by three repeats of adding 10 ml benzene and concentrating the mixture, thus obtaining the title compound in the form of a yellow solid.

reactant | indole-2-carboxylic acid | 0.61 mmol, 98 mg | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | thionyl chloride | 3.1 mmol, 224 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | indole-2-carbonyl chloride | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
